data/oMe_Silver.jsonl
{"reaction_id": "NR-114_1-C(C)(C)C","level": "medium","name": "Hunsdiecker Reaction","reactants_smiles": ["[Ag+].O=C([O-])(C(C)(C)C)","BrBr"],"products_smiles": ["[Br](C(C)(C)C)"],"conditions": "hν or Heat","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(OBr)(C(C)(C)C)","step_weight": 0,"rationale": "Silver carboxylate acts as a nucleophile toward bromine, forming the acyl hypobromite due to the high electrophilicity of bromine and the good leaving ability of AgBr."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "O=C([O])(C(C)(C)C)","step_weight": 0,"rationale": "Heat or light induces homolytic cleavage of the weak O–Br bond in the hypobromite, generating an acyloxy radical and bromine radical."},{"step": 3,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C(C)(C)C)","step_weight": 0,"rationale": "The acyloxy radical rapidly decarboxylates, driven by CO₂ release and formation of a more stable alkyl radical."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "[Br](C(C)(C)C)","step_weight": 0,"rationale": "The alkyl radical reacts with bromine radical to form the alkyl bromide, favored by the strong C–Br bond formation and radical recombination kinetics."}],"description": "In the Hunsdiecker reaction, a silver carboxylate reacts with bromine under heat or light to form an alkyl bromide via radical decarboxylation. The process involves initial formation of an acyl hypobromite, homolytic cleavage to generate radicals, CO₂ loss, and radical recombination with bromine."}
{"reaction_id": "NR-075_1-C_2-C","name": "Fujimoto-Belleau Reaction","level": "medium","reactants_smiles": ["CC[Mg]Br","C1CC(=O)OC2=C(C)CCCC12"],"products_smiles": ["C12CCCCC1=CC(=O)CC2"],"conditions": "1. Ether solvent 2. H3O+ workup","mechnism_text_description": "The reaction sequence begins with the Fujimoto-Belleau reaction, a 1,4-conjugate nucleophilic addition of a Grignard reagent to an enol lactone. The resulting magnesium enolate is protonated during acidic workup and tautomerizes to a stable saturated lactone. This lactone then serves as a precursor for an intramolecular aldol condensation (a Robinson annulation). Under basic or thermal conditions, the lactone is believed to open to an intermediate keto-acid, which then cyclizes to form a β-hydroxy ketone. The final step is a dehydration of this aldol adduct to yield the thermodynamically stable α,β-unsaturated ketone.","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(CC)([O-])OC2=C(C)CCCC12","rationale": "The nucleophilic carbon of the Grignard reagent attacks the β-position of the α,β-unsaturated lactone due to conjugation, forming a stabilized magnesium enolate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]C1=C(C)CCCC1CCCC(=O)(CC)","rationale": "Elimination of the alkoxide occurs as the lactone ring opens, driven by relief of ring strain and formation of a stabilized conjugated carbonyl system."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C1C(C)CCCC1CCC([O-])=C(C)","rationale": "Protonation of the enolate oxygen under acidic workup yields a neutral carbonyl, favored by the high electrophilicity of the proton and stability of the resulting ketone."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(=O)C(C)C2([O-])C(C)CCCC12","rationale": "The enolate generated from the keto-acid intermediate attacks an intramolecular carbonyl, favored by proximity and formation of a stable five- or six-membered ring."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CC([O-])=C(C)C2(O)C(C)CCCC12","rationale": "Proton transfer converts the alkoxide to a β-hydroxy ketone, stabilizing the intermediate and preparing it for dehydration."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CC(=O)C(C)=C2C(C)CCCC12","rationale": "Elimination of water forms the α,β-unsaturated ketone, driven by conjugation between the alkene and carbonyl, giving the thermodynamically more stable product."}],"description": "A Grignard reagent performs a 1,4-conjugate addition to the enol lactone, forming a magnesium enolate. Acidic workup and tautomerization yield a lactone, which undergoes base/thermal-induced ring opening and intramolecular aldol condensation. Final dehydration produces the thermodynamically favored α,β-unsaturated ketone."}
